* C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\252330 lab\bjt-amp-lab\1-3(2nd).asc
C1 N003 0 100µ
R1 N003 0 12k
R2 N001 N003 68k
Q1 N002 N003 N004 0 q2sc458
R3 N004 0 1k
Vin vin 0 SINE(0 10m 1k) AC 1 0
C2 vin N004 10µ
C3 Vout N002 10µ
R4 N001 N002 3.9k
RL Vout 0 100Meg
V1 N001 0 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 10 10 100Meg
.backanno
.end
