* C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\252330 lab\bjt-char-lab\ltspice\bjt-lab.asc
IB 0 Vin {Ib}
Q1 Vout Vin 0 0 q2sc458
VCE Vout 0 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\lib\cmp\standard.bjt
.dc VCE 0 3 0.01
.step param Ib 0 10u 2u
.backanno
.end
