* C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\252330 lab\capacitor-coupling-lab\ltspice\3-1.asc
Vin vin 0 SINE() AC 1 0
C1 N004 vin 10µ
R11 N001 N004 27k
R21 N004 0 6.8k
RC1 N001 N002 2.4k
Q1 N002 N004 N006 0 q2sc458
RE1 N006 0 680
C2 N005 N002 0.1µ
R13 N001 N005 12k
R23 N005 0 3.3k
RC2 N001 N003 2.4k
Q2 N003 N005 N007 0 q2sc458
RE2 N007 0 680
C4 N007 0 100µ
C3 vout N003 10µ
RL vout 0 100Meg
VCC N001 0 6
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 10m 10 100Meg
.backanno
.end
