* C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\252330 lab\direct-coupling-lab\ltspice\3-2.asc
Vin vin 0 SINE() AC 1 0
C1 N004 vin 10µ
R11 N001 N004 27k
R21 N004 0 6.8k
RC1 N001 N002 2.4k
Q1 N002 N004 N006 0 q2sc458
RE1 N006 0 680
Q2 N005 N002 N003 0 Q2sa1015
RC2 N005 0 1.2k
C3 vout N005 10µ
RL vout 0 100Meg
RE2 N001 N003 1.8k
C2 N001 N003 330µ
VCC N001 0 6
.model NPN NPN
.model PNP PNP
.lib C:\Users\ASUS\OneDrive - Chiang Mai University\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 10 10m 100Meg
.backanno
.end
